US07291635B2
The title B compound, 5-(4-aminomethyl-benzyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one hydrochloride (89 mg, 0.20 mmol) is suspended in dry THF (10 mL) and N-Boc glycine (42 mg, 0.24 mmol) is added. EDCl (58 mg, 0.30 mmol) is added, followed by TEA (61 mg, 0.60 mmol). The mixture is stirred at RT for 16 h. The solvent is evaporated and the residue is chromatographed on silica gel using CH2Cl2→g 3% MeOH in CH2Cl2 as the eluent to afford ({4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzylcarbamoyl}-methyl)-carbamic acid t-butyl ester as a white solid: [M+NH4]+=580.

reactant | 5-(4-aminomethyl-benzyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one hydrochloride | 0.20 mmol, 89 mg | Cl.NCC1=CC=C(CN2CC(N(S2(=O)=O)CC2=C(C=C(C=C2)OC)OC)=O)C=C1
reactant | N-Boc glycine | 0.24 mmol, 42 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | EDCl | 0.30 mmol, 58 mg | CCN=C=NCCCN(C)C.Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ({4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzylcarbamoyl}-methyl)-carbamic acid t-butyl ester | C(C)(C)(C)OC(NCC(NCC1=CC=C(C=C1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O)=O | C26H34N4O8S
